US04650810
(i) 2-(4-Nitrophenyl)propionamide
A solution of methyl 2-(4-nitrophenyl)propionate (20.0 g) in aqueous ammonia (d=0.88, 350 ml) was stirred at room temperature for 36 h. The resultant solid was collected and dried in vacuo at 50° to give the title compound (13.4 g). A sample (0.1 g) was crystallised from water to give analytically pure material m.p. 120°-121°.

reactant | methyl 2-(4-nitrophenyl)propionate | 20.0 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)OC)C | C10H11NO4
reactant | ammonia | 350 ml | N | H3N
product | 2-(4-Nitrophenyl)propionamide | 13.4 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)N)C | C9H10N2O3
